US04110327
To a solution of 6.4 g of 1-formyl-3-oxopiperazine in 10 ml of anhydrous dimethylformamide was added 2.7 g of a sodium hydride (purity 53 %) with ice-cooling, and the resulting mixture was reacted at room temperature for 1 hour. Subsequently, the mixture was incorporated with 7.1 g of methyl iodide and reacted for 10 hours. After the reaction, the dimethylformamide was removed by reduced pressure distillation to obtain 1-formyl-4-methyl-3-oxopiperazine. This piperazine was dissolved in 70 ml of a 50 % aqueous acetone solution containing 2.2 g of sodium hydroxide, and the resulting solution was reacted at room temperature for 3 hours. Thereafter, the solvent was removed by distillation under reduced pressure, and the residue was charged into acetone to deposit insolubles. The insolubles were separated by filtration, and the acetone was removed from the filtrate by distillation under reduced pressure. Subsequently, the residue was subjected to reduced pressure distillation to obtain 5.2 g of 1-methyl-2-oxo-piperazine, b.p. 104° C/4 mmHg, yield 91 %.

reactant | 1-formyl-3-oxopiperazine | 6.4 g | C(=O)N1CC(NCC1)=O | C5H8N2O2
reactant | sodium hydride | 2.7 g | [H-].[Na+]
reactant | methyl iodide | 7.1 g | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-formyl-4-methyl-3-oxopiperazine | C(=O)N1CC(N(CC1)C)=O | C6H10N2O2
